US08202874B2
N-(2-phenylethyl)-6-pyridin-4-ylpyrazin-2-amine 4-oxide
A mixture containing 0.250 g (1.0 mmol) of 6-chloro-N-(2-phenylethyl)pyrazin-2-amine 4-oxide, 0.296 g (2.40 mmol) of 4-pyridine boronic acid, 0.60 mL (1.2 mmol) of a 2M solution of sodium carbonate in water and 0.116 g (0.1 mmol) of tetrakis(triphenylphosphine)palladium (0) in 5 mL of a mixture of ethanol/water in the proportions 5/1 was stirred under reflux for 16 h. Cooled water was added and the mixture extracted with dichloromethane, dried over sodium sulfate and evaporated to dryness. The residue obtained was purified by chromatography on silica gel eluting with a mixture of dichloromethane/methanol/diethylamine in the proportions 98/2/0.2 to give after trituration with diethyl ether 0.058 g (20%) of pure product as a yellow solid.

reactant | 6-chloro-N-(2-phenylethyl)pyrazin-2-amine 4-oxide | 1.0 mmol, 0.250 g | ClC1=C[N+](=CC(=N1)NCCC1=CC=CC=C1)[O-] | C12H12ClN3O
reactant | 4-pyridine boronic acid | 2.40 mmol, 0.296 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol water | C(C)O.O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 0.116 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-phenylethyl)-6-pyridin-4-ylpyrazin-2-amine 4-oxide | C1(=CC=CC=C1)CCNC1=NC(=C[N+](=C1)[O-])C1=CC=NC=C1 | C17H16N4O
